US04695575
A mixture of 3.3 parts of 2-bromo-1-phenylethanone, 7 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]thiourea, 4 parts of potassium carbonate and 90 parts of tetrahydrofuran was stirred for 2 hours at room temperature. The reaction mixture was filtered over Hyflo and the filtrate was evaporated. The reaction mixture was poured into water. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.8 parts (33.3%) of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N-(4-phenyl-2-thiazolyl)-1-piperidineethanamine; mp. 122.2° C. (454).

reactant | 2-bromo-1-phenylethanone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]thiourea | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC(=S)N | C23H28FN5S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N-(4-phenyl-2-thiazolyl)-1-piperidineethanamine | 33.3% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC=2SC=C(N2)C2=CC=CC=C2 | C31H32FN5S
